US08877961B2
(c) Preparation of N-(4-aminophenyl)(fluoren-9-ylmethoxy)carboxamide
TFA (55.30 mL, 717.76 mmol, 15.0 eq) is added at 0° C. to a stirred solution of (tert-butoxy)-N-{4-[(fluoren-9-ylmethoxy)carbonylamino]phenyl}carboxamide (20.60 g, 47.85 mmol, 1.0 eq) in CH2Cl2 (900 mL). The resulting solution is allowed to warm to room temperature. After stirring overnight at room temperature, the reaction mixture is concentrated to dryness and the residue is triturated in water. Then the mixture is filtered to afford 15.80 g of the expected crude product as a white powder.

reactant | TFA | 717.76 mmol, 55.30 mL, 15.0 eq | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (tert-butoxy)-N-{4-[(fluoren-9-ylmethoxy)carbonylamino]phenyl}carboxamide | 47.85 mmol, 20.60 g, 1.0 eq | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C26H26N2O4
solvent | CH2Cl2 | 900 mL | C(Cl)Cl | CH2Cl2
product | N-(4-aminophenyl)(fluoren-9-ylmethoxy)carboxamide | 15.80 g | NC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C21H18N2O2
